* D:\General Data\Files\Projects\1) Major Projects\SOAR PMB REV 2\Code\SOAR_PMB_Rev_2\SPICE SIMS\Main circuit.asc
* Generated by LTspice 24.1.4 for Windows.
V§UMBILICAL N036 0 PULSE(0 48 0 10m 2m 200m 500m 2) Rser=100m
V§BATT_1 N037 0 PULSE(0 14 150m 4m 10m 700m 1000m 2) Rser=60m
V§BATT_2 N038 0 PULSE(0 14 20m 10m 10m 1000m 11 1) Rser=60m
B§UMBILICAL_Noise N020 N036 V=white(2e4*time) / 13
BATT_1_Noise N025 N037 V=white(2e4*time) / 13
BATT_2_Noise N030 N038 V=white(2e4*time) / 13
C7 N046 0 1n
C8 N041 0 4.7µ Rser=1.5m
X§U1 N040 N041 N040 N046 N041 0 ADM7170-5.0
C1 N019 0 660µ Rser=0.1
R13 LOGIC_POWER N041 0.0001
X§U15 N026 N034 0 Umbilical_gate_control_logic_output Deny_signal UMBILICAL_gate_drive N032 N023 N027 LTC7001
R11 N034 0 67857
M4 N022 UMBILICAL_gate_drive N023 N023 IPA180N10N3
M5 OUTPUT_RAIL UMBILICAL_gate_drive N023 N023 IPA180N10N3
D7 N026 N027 RF071MM2S
C20 N039 0 22n
R20 UMBILICAL_gate_drive N039 10
X§U14 N044 N048 0 BATT_1_gate_control_logic_output Deny_signal BATT_1_gate_drive N047 N043 N045 LTC7001
M2 N042 BATT_1_gate_drive N043 N043 IPA180N10N3
M3 OUTPUT_RAIL BATT_1_gate_drive N043 N043 IPA180N10N3
D3 N044 N045 RF071MM2S
C21 N049 0 22n
R17 BATT_1_gate_drive N049 10
X§U16 N052 N055 0 BATT_2_gate_control_signal_logic_output Deny_signal BATT_2_gate_drive N054 N051 N053 LTC7001
M8 N050 BATT_2_gate_drive N051 N051 IPA180N10N3
M9 OUTPUT_RAIL BATT_2_gate_drive N051 N051 IPA180N10N3
D8 N052 N053 RF071MM2S
R23 BATT_2_gate_drive N054 200
C23 N056 0 22n
R24 BATT_2_gate_drive N056 10
D9 0 N023 D
D10 0 N043 D
D11 0 N051 D
D12 0 Deny_signal UMZ5_1N
R14 N048 0 67857
D13 0 Deny_signal UMZ5_1N
R22 N055 0 67857
D14 0 Deny_signal UMZ5_1N
R27 N022 UMBILICAL 0.00001
R28 N042 BATT_1 0.00001
R29 N050 BATT_2 0.001
C36 N019 0 100n
C46 N019 0 100p
R30 N019 N018 0.00001
X§U17 Umbilical_turn_on BATT_1_turn_on BATT_2_turn_on BATT_2_turn_on BATT_2_turn_on N002 SN74LVC1G332DBVR
V2 5V 0 5
X§U18 Umbilical_priority_comparator LOGIC_POWER LOGIC_POWER N021 TLV1851DBVR
X§U20 BATT_1_priority_comparator LOGIC_POWER LOGIC_POWER N029 TLV1851DBVR
X§U23 BATT_2_priority_comparator LOGIC_POWER LOGIC_POWER N035 TLV1851DBVR
X§U26 N021 N024 SN74LVC1G14DBVR
X§U27 N029 N031 SN74LVC1G14DBVR
X§U12 UMB_half_comp OUTPUT_RAIL_comparator LOGIC_POWER N010 TLV1851DBVR
X§U28 BATT_1_half_comp OUTPUT_RAIL_comparator LOGIC_POWER N014 TLV1851DBVR
X§U30 BATT_2_half_comp OUTPUT_RAIL_comparator LOGIC_POWER N015 TLV1851DBVR
X§U31 N008 N009 N011 NC_01 NC_02 N007 SN74LVC1G332DBVR
X§U32 N007 N004 SN74LVC1G14DBVR
D5 BATT_2 N040 MMSD4148
D6 BATT_1 N040 MMSD4148
D15 UMBILICAL N040 MMSD4148
R46 OUTPUT_RAIL OUTPUT_RAIL_comparator 68000
R47 OUTPUT_RAIL_comparator 0 68000
C53 OUTPUT_RAIL_comparator 0 1n
R52 N018 OUTPUT_RAIL 0.00001
X§U3 Umbilical_turn_on Umbilical_gate_control_logic_output N010 N010 N010 N008 SN74LVC1G08DBVR
X§U7 BATT_1_turn_on BATT_1_gate_control_logic_output N014 N014 N014 N009 SN74LVC1G08DBVR
X§U8 BATT_2_turn_on BATT_2_gate_control_signal_logic_output N015 N015 N015 N011 SN74LVC1G08DBVR
X§U9 N024 N029 N029 N029 N029 N028 SN74LVC1G08DBVR
X§U10 N024 N031 N035 N035 N035 N033 SN74LVC1G08DBVR
R40 BATT_2_gate_control_signal_logic_output N033 0.00001
R53 BATT_1_gate_control_logic_output N028 0.00001
R54 Umbilical_gate_control_logic_output N021 0.00001
R§Deny_signal_current_sense Deny_signal N003 0.00001
R56 N044 LOGIC_POWER 0.000001
R57 N052 LOGIC_POWER 0.000001
R58 N026 LOGIC_POWER 0.000001
C22 N023 N027 1µ
C18 N043 N045 1µ
C49 N051 N053 1µ
B1 N018 0 I = 3
L1 UMBILICAL N020 {para_L}
L2 BATT_1 N025 {para_L}
L3 BATT_2 N030 {para_L}
R15 BATT_1_gate_drive N047 200
R8 N005 0 187500
R19 N006 0 392k
R33 LOGIC_POWER N006 1000k
R12 N012 0 187500
R16 N016 0 187500
C12 LOGIC_POWER 0 1µ
C47 LOGIC_POWER 0 1µ
C48 LOGIC_POWER 0 1µ
C50 LOGIC_POWER 0 1µ
C52 LOGIC_POWER 0 1µ
C56 LOGIC_POWER 0 0.1µ
C73 LOGIC_POWER 0 0.1µ
C76 LOGIC_POWER 0 0.1µ
C77 LOGIC_POWER 0 0.1µ
C78 LOGIC_POWER 0 0.1µ
C79 LOGIC_POWER 0 1µ
C80 LOGIC_POWER 0 0.1µ
C81 LOGIC_POWER 0 1µ
C82 LOGIC_POWER 0 1µ
C83 LOGIC_POWER 0 1µ
C84 LOGIC_POWER 0 1µ
C85 LOGIC_POWER 0 0.1µ
C86 LOGIC_POWER 0 0.1µ
C87 LOGIC_POWER 0 0.1µ
C88 LOGIC_POWER 0 0.1µ
C89 LOGIC_POWER 0 1µ
C90 LOGIC_POWER 0 1µ
C91 LOGIC_POWER 0 1µ
C92 LOGIC_POWER 0 0.1µ
C93 LOGIC_POWER 0 0.1µ
C94 LOGIC_POWER 0 0.1µ
C95 LOGIC_POWER 0 1µ
C96 LOGIC_POWER 0 1µ
C97 LOGIC_POWER 0 0.1µ
C98 LOGIC_POWER 0 0.1µ
C99 LOGIC_POWER 0 1µ
C100 LOGIC_POWER 0 1µ
C101 LOGIC_POWER 0 1µ
C102 LOGIC_POWER 0 0.1µ
C103 LOGIC_POWER 0 0.1µ
C104 LOGIC_POWER 0 0.1µ
C105 LOGIC_POWER 0 1µ
C106 LOGIC_POWER 0 0.1µ
C107 LOGIC_POWER 0 1µ
C108 LOGIC_POWER 0 1µ
C109 LOGIC_POWER 0 1µ
C110 LOGIC_POWER 0 1µ
C111 LOGIC_POWER 0 0.1µ
C112 LOGIC_POWER 0 0.1µ
C113 LOGIC_POWER 0 0.1µ
C114 LOGIC_POWER 0 0.1µ
C115 LOGIC_POWER 0 1µ
C116 LOGIC_POWER 0 1µ
C117 LOGIC_POWER 0 0.1µ
C118 LOGIC_POWER 0 0.1µ
R10 UMBILICAL_gate_drive N032 500
R38 BATT_1_half_comp BATT_1 13462
R39 BATT_1_half_comp BATT_1_priority_comparator 3462
R41 BATT_1_priority_comparator 0 10000
R44 UMB_half_comp UMBILICAL 90000
R45 UMB_half_comp Umbilical_priority_comparator 69200
R55 Umbilical_priority_comparator 0 20800
C2 UMB_half_comp 0 1n
C4 Umbilical_priority_comparator 0 100n
C5 BATT_1_half_comp 0 1n
C6 BATT_1_priority_comparator 0 10n
C9 BATT_2_priority_comparator 0 10n
C10 BATT_2_half_comp 0 1n
X§U2 N002 N004 N004 N004 N004 N003 SN74LVC1G08DBVR
X§U6 Umbilical_gate_control_logic_output 0 N005 N006 LOGIC_POWER Umbilical_turn_on LTC6993-2
X§U4 BATT_1_gate_control_logic_output 0 N012 N013 LOGIC_POWER BATT_1_turn_on LTC6993-2
X§U5 BATT_2_gate_control_signal_logic_output 0 N016 N017 LOGIC_POWER BATT_2_turn_on LTC6993-2
R1 N013 0 392k
R2 LOGIC_POWER N013 1000k
R3 N017 0 392k
R4 LOGIC_POWER N017 1000k
R7 BATT_2_priority_comparator 0 10000
R5 BATT_2_half_comp BATT_2_priority_comparator 3462
R6 BATT_2_half_comp BATT_2 13462
.model D D
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 900m
* POWER INPUTS & LOGIC 5V POWER CONVERTER
* SWITCHING CIRCUIT
* POWER SOURCE LOAD SWITCHES AND GATE DIRVERS
* OUTPUT RAIL
* Priority switching circuit
* Switching event sensing circuits
* Power input comparator debounce circuits
* Cross conduction prevention circuit
* Back to back NMOS switches and their gate drives
* Power inputs
* 5V converter for logic circuitry
.params para_L = 10p
* 30us pulse
* OR Gate power bypass caps
* Schmitt inverter power bypass caps
* LTC7001 power bypass caps
* Logic IC bypass capacitors
* Dflop power bypass caps
* AND Gate power bypass caps
* Comparator power bypass caps
* .step param I list 1 4 8
.lib ADM7170-5.0.sub
.lib LTC6993-2.sub
.lib LTC7001.sub
.lib SN74LVC1G08DBVR.sub
.lib SN74LVC1G14DBVR.sub
.lib SN74LVC1G332DBVR.sub
.lib TLV1851DBVR.sub
.backanno
.end
